US06951879B2
In analogy to example 3.1, 3-(4-Bromo-phenyl)-6-(3-bromo-propoxy)-benzo[d]isothiazole and 1-Methyl-piperazine were converted to yield 3-(4-Bromo-phenyl)-6-[3-(4-methyl-piperazin-1-yl)-propoxy]-benzo[d]isothiazole as colorless oil, MS: 446 (MH+, 1Br).

reactant | 3-(4-Bromo-phenyl)-6-(3-bromo-propoxy)-benzo[d]isothiazole | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCCCBr | C16H13Br2NOS
reactant | 1-Methyl-piperazine | CN1CCNCC1 | C5H12N2
product | 3-(4-Bromo-phenyl)-6-[3-(4-methyl-piperazin-1-yl)-propoxy]-benzo[d]isothiazole | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCCCN2CCN(CC2)C | C21H24BrN3OS
